US06432948B1
An alternative process for the preparation of the intermediate compound 2,4-dichloro-3-cyano-5-fluoro-benzoyl chloride, which serves as a starting material for the preparation of 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (EP-A-0 276 700) and which can converted into 3-cyano-2,4,5-trifluoro-benzoyl fluoride, starts from 5-fluoro-1,3-xylene: 5-fluoro-1,3-xylene is dichlorinated in the nucleus under ionic conditions in the presence of a catalyst to give 2,4-dichloro-5-fluoro-1,3-dimethylbenzene and this is then chlorinated under free-radical conditions in the side chains to give 2,4-dichloro-5-fluoro-3-dichloromethyl-1-trichloromethylbenzene. This is hydrolysed via 2,4-dichloro-5-fluoro-3-dichloromethylbenzoic acid to give 2,4-dichloro-5-fluoro-3-formyl-benzoic acid and then reacted to give 2,4-dichloro-5-fluoro-3-N-hydroxyiminomethyl-benzoic acid. By treatment with thionyl chloride, 2,4-dichloro-3-cyano-5-fluoro-benzoyl chloride is obtained, which can additionally be reacted by means of a chlorine/fluorine exchange to give 3-cyano-2,4,5-trifluoro-benzoyl fluoride.

reactant | 2,4-dichloro-3-cyano-5-fluoro-benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=C1C#N)Cl)F | C8HCl3FNO
reactant | 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1C#N)C1CC1)C(=O)O)=O)F | C14H8ClFN2O3
reactant | 3-cyano-2,4,5-trifluoro-benzoyl fluoride | C(#N)C=1C(=C(C(=O)F)C=C(C1F)F)F | C8HF4NO
reactant | 5-fluoro-1,3-xylene | FC=1C=C(C=C(C1)C)C | C8H9F
product | 2,4-dichloro-5-fluoro-1,3-dimethylbenzene | ClC1=C(C=C(C(=C1C)Cl)F)C | C8H7Cl2F
